US05168103
Solutions (10 mL each) of 3,4-diethoxy-3-cyclobutene-1,2-dione (1.27 mL, 8.6 mmol) and [2-[(2-aminoethyl)amino]ethyl]phosphonic acid diethyl ester (1.92 g, 8.6 mmol) in ethanol were injected separately via syringe pump into refluxing ethanol (22 mL) over 3 hours. After refluxing overnight, the red-brown solution was preadsorbed onto silica gel and purified by flash chromatography (7 cm diameter, gradient elution with 2.5-10% methanol in ethyl acetate) and recrystallization (methanol in ethyl acetate) to yield [2-(7,8-dioxo-2,5-diazabicyclo[4.2.0]oct-1(6)-en-2-yl)ethyl]phosphonic acid diethyl ester as a beige solid (0.78 g, 30%, mp 115°-116° C.); IR (KBr, cm-1): 3170, 1780, 1660; MS (+FAB): 303 (MH+, 100), 109 (38); 1H NMR (CDCl3, 400 MHz): δ 7.64 (br s, NH), 4.16-4.06 (m, 4H), 3.80-3.73 (m, 2H), 3.63-3.60 (m, 2H), 3.48 (t, J=5 Hz, 2H), 2.31 (d of t, J=18 and 7.5 Hz, 2H), 1.33 (t, J=7 Hz, 6H).

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 8.6 mmol, 10 mL | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | [2-[(2-aminoethyl)amino]ethyl]phosphonic acid diethyl ester | 8.6 mmol, 1.92 g | C(C)OP(OCC)(=O)CCNCCN | C8H21N2O3P
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | [2-(7,8-dioxo-2,5-diazabicyclo[4.2.0]oct-1(6)-en-2-yl)ethyl]phosphonic acid diethyl ester | 0.78 g, 30% | C(C)OP(OCC)(=O)CCN1C=2C(C(C2NCC1)=O)=O | C12H19N2O5P
